US09340538B2
Step B: Ethyl 4-(2,4-dichlorophenyl)-6-((3-(isopropylcarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.57 g, 1.2 mmol) was reacted with N-isopropylmorpholine-3-carboxamide (0.21 g, 1.2 mmol) according to the procedure as described in Example 24 to give the title compound as a yellow solid (0.2 g, 30%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.2 mmol, 0.57 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H14BrCl2N3O2S
reactant | N-isopropylmorpholine-3-carboxamide | 1.2 mmol, 0.21 g | C(C)(C)NC(=O)C1NCCOC1 | C8H16N2O2
product | Ethyl 4-(2,4-dichlorophenyl)-6-((3-(isopropylcarbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.2 g, 30% | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)CN1C(COCC1)C(NC(C)C)=O)C=1SC=CN1 | C25H29Cl2N5O4S
